US20010016207A1
B. 4-(4-Benzyl-piperazin-1-yl)-benzoic acid hydrochloride
4-(4-Benzyl-piperazin-1-yl)-benzoic acid methyl ester (0.84 mmol) is dissolved in 4N HCl (2 ml) and heated under reflux for 8 hours. The mixture is cooled in an ice bath to 0-4° C. and the solid material formed is filtered off, washed with cold acetone and dried (vacuum). A grey powder with mp. >270° C., Rf=0.18 (CH2Cl2/MeOH=95:5) is obtained.

reactant | 4-(4-Benzyl-piperazin-1-yl)-benzoic acid methyl ester | 0.84 mmol | COC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1)=O | C19H22N2O2
reactant | HCl | 4N, 2 ml | Cl | ClH
product | 4-(4-Benzyl-piperazin-1-yl)-benzoic acid hydrochloride | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C18H20N2O2.ClH/c21-18(22)16-6-8-17(9-7-16)20-12-10-19(11-13-20)14-15-4-2-1-3-5-15;/h1-9H,10-14H2,(H,21,22);1H
